US08486952B2
A solution of 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (260 mg, 0.918 mmol) and excess dimethylamine (4.59 mL, 9.18 mmol) in methanol (2 mL) was stirred at rt for 30 min. The solvent was removed in vacuum to afford crude 2-chloro-7-(4-fluorophenyl)-N,N-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (268 mg, 0.919 mmol, 100% yield). LC-MS (M+H)+=292.3.

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.918 mmol, 260 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | dimethylamine | 9.18 mmol, 4.59 mL | CNC | C2H7N
solvent | methanol | 2 mL | CO | CH4O
product | 2-chloro-7-(4-fluorophenyl)-N,N-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.919 mmol, 268 mg, 100% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N(C)C | C15H15ClFN3
